US05637780
3-(trimethylsilylethoxymethoxymethyl)benzyl chloride
m-Hydroxymethylbenzyl chloride (19.29 g, 123.2 mmole) and N,N-diisopropylethylamine (43 mL, 246 mmole) in dichioromethane (150 mL) were placed in a 500 mL round bottom flask fitted with a reflux condenser and a dropping funnel. 2-(Trimethylsilyl)ethoxymethyl chloride (32.7 mL, 185 mmol) in dichloromethane (50 mL) was added slowly via the dropping funnel. After the addition was complete, the contents were heated at 55° C. for 18 hours, after which TLC using 1:5 ethyl acetate:hexane indicated completion of the reaction. The dichloromethane solution was cooled to room temperature, washed with water (100 mL) and then dried over anhydrous magnesium sulfate. After filtration and concentration, the residue was chromatographed on silica gel to provide 32.57 g (92% yield) of the desired product. 1H NMR spectral data were as follows: (CDCl3, 300 MHz): δ7.3 (m, 4H), 4.8 (s, 2H), 4.65 (s, 2H), 4.6 (s, 2H), 3.65 (m, 2H), 1.0 (m, 2H), 0.00 (s, 9H).

reactant | N,N-diisopropylethylamine | 246 mmole, 43 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 185 mmol, 32.7 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
reactant | dichioromethane | 150 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(trimethylsilylethoxymethoxymethyl)benzyl chloride | 32.57 g, 92% yield | C[Si](C)(C)CCOCOCC=1C=C(CCl)C=CC1 | C14H23ClO2Si
